US09278960B2
Methyl 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate (1.8 g, 5.21 mmol) was dissolved in dioxane (23.43 ml), degassed 10 minutes with N2. Added potassium vinyltrifluoroborate (1.395 g, 10.41 mmol), palladium(II) acetate (0.088 g, 0.390 mmol), 2-bicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.321 g, 0.781 mmol) and cesium carbonate (5.09 g, 15.62 mmol) followed by degassed water (2.60 ml). Degassed with N2 for another 10 minutes and then the mixture was stirred at 85° C. for 1 hour. Reaction was complete. The reaction mixture was cooled to ambient temperature and then diluted with EtOAc. Partitioned EtOAc with water, washed EtOAc extract with brine, dried using anhy. MgSO4 and then concentrated. The residue was purified by column chromatography on silica gel, eluting with hexanes to EtOAc to afford methyl 7-ethenyl-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate (1.25 g, 3.71 mmol, 71.2% yield) as a yellow solid.

reactant | Methyl 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate | 5.21 mmol, 1.8 g | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C18H13ClFNO3
reactant | potassium vinyltrifluoroborate | 10.41 mmol, 1.395 g | C(=C)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 15.62 mmol, 5.09 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 23.43 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 0.390 mmol, 0.088 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 7-ethenyl-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carboxylate | 3.71 mmol, 1.25 g, 71.2% yield | C(=C)C1=CC=C2C(=CC(=NC2=C1)C(=O)OC)C1=C(C=C(C=C1)OC)F | C20H16FNO3
